US04229438
Production of pGlu-Ala-Lys-Ser-Gln-Gly-(D)-Ala-Ser-Asn-OH
In 5 ml of trifluoroacetic acid is dissolved 500 mg of pGlu-Ala-Lys(Boc)-Ser-Gln-Gly-(D)-Ala-Ser-Asn-OBut and the mixture is allowed to stand at room temperature. The trifluoroacetic acid is distilled off and the residue is precipitated with ether and recovered by filtration. The resulting powders are dissolved in 50 ml of water and run onto a column of Amberlite IRA-410(acetate-form) (2×5 cm). The effluent is combined with washings and lyophilized. The powdery lyophilizate is dissolved in a small amount of 0.1 N-aqueous acetic acid and put onto a column of Sephadex LH-20 (2.5×125 cm), elution being carried out with 0.1 N-aqueous acetic acid. The fractions from 186 ml through 206 ml are pooled and lyophilized. Yield 310 mg (62%); [α]D24 -47.3°(c=0.35, H2O); Rf4 (Avicel)=0.24; amino acid analysis (acid hydrolyzate); Lys, 1.08(1); Asp, 1.00(1); Ser, 1.90(2); Glu, 1.93(2); Gly, 1.06(1); Ala, 2.00(2); average recovery 89%.

reactant | pGlu-Ala-Lys(Boc)-Ser-Gln-Gly-(D)-Ala-Ser-Asn-OBut | 500 mg | N1[C@@H](CCC1=O)C(=O)N[C@@H](C)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCC(N)=O)C(=O)NCC(=O)N[C@H](C)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(N)=O)C(=O)OC(C)(C)C | C43H72N12O17
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | pGlu-Ala-Lys-Ser-Gln-Gly-(D)-Ala-Ser-Asn-OH | N1[C@@H](CCC1=O)C(=O)N[C@@H](C)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCC(N)=O)C(=O)NCC(=O)N[C@H](C)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(N)=O)C(=O)O | C34H56N12O15
